### PR TITLE
[stdlib] well-founded list extension

### PR DESCRIPTION
**Pull request by mrhaandi**
Added the following results
- well-founded list extension `list_ext` of a well-founded relation (lemma `wf_list_ext`)
- infrastructure lemmas `list_ext_inv`, `list_ext_nil_r`, `list_ext_Acc_app`, `Acc_list_ext`, `clos_trans_list_ext_nil_l`, `list_ext_app_l`, `list_ext_app_r`, `clos_refl_trans_list_ext_app_l`, `clos_refl_trans_list_ext_app_r`, `clos_trans_list_ext_app_l`, `clos_trans_list_ext_app_r` 
- lemma `wf_clos_trans_inverse_rel` for well-foundedness proofs
- lemma `clos_t_clos_rt` showing inclusion of transitive closure in reflexive, transitive closure

List extension is a list-variant of the finite multiset extension.
It is easy to use the general results `wf_clos_trans_inverse_rel` and `wf_list_ext` for further well-foundedness results.
One example is the now simplified well-foundedness proof `wf_lex_exp` of lexicographic exponentiation.
Parts of [coq-library-undecidability](https://github.com/uds-psl/coq-library-undecidability/blob/d295433e9f9bf5501e17736c1263b0e4b77007c6/theories/MinskyMachines/Deciders/MPM2_HALT_dec.v#L402) would also profit from this.
Of course, applications of finite multiset extension can use list extension.

- [x] Added **changelog**.

<!-- Pointers to relevant developer documentation:

Contributing guide: https://github.com/coq/coq/blob/master/CONTRIBUTING.md

Test-suite: https://github.com/coq/coq/blob/master/test-suite/README.md

Changelog: https://github.com/coq/coq/blob/master/doc/changelog/README.md

Building the doc: https://github.com/coq/coq/blob/master/doc/README.md
Sphinx: https://github.com/coq/coq/blob/master/doc/sphinx/README.rst
doc_gram: https://github.com/coq/coq/blob/master/doc/tools/docgram/README.md

Overlays: https://github.com/coq/coq/blob/master/dev/ci/user-overlays/README.md

### CODE REVIEW

**Comment by andres-erbsen** [comment]
@coq/stdlib-maintainers has any one of us worked with these concepts before & would be willing to assign? This PR looks valuable but I do not have specifically relevant experience to review in detail.

**Comment by herbelin** [comment]
> @coq/stdlib-maintainers has any one of us worked with these concepts before & would be willing to assign? This PR looks valuable but I do not have specifically relevant experience to review in detail.

I'm not expert on the kind of proofs involved in relation with these concepts but the concepts are interesting. I suspect that such results are studied in e.g. CoLoR, so, maybe @fblanqui would have an opinion.

Otherwise, I'd lean in favor of eventually merging the PR.

**Comment by mrhaandi** [comment]
Additional use of this technique (equivalent to finite multiset extension) is e.g. showing normalization properties for the simply typed lambda-calculus based on a decreasing (multiset) measure (cf. [measure_lt_wf](https://github.com/tudo-seal/uniform-intersection/blob/dffc48044552886094bb2b2ccee377f47748935d/stlc_nf.v#L672)).
Unfortunately, this does not follow from existing well-foundedness lemmas in stdlib.

**Comment by SkySkimmer** [comment]
ping @coq/stdlib-maintainers

**Comment by mrhaandi** [comment]
> I spent about half an hour trying to understand the theory being developed and didn't get far. Perhaps it's due to my lack of background, but I don't want to be the one to merge it now.

I'm glad to answer any particular questions.

The main purpose is to have a list-extension of well-founded relations (and prove that the extension is well-founded). Technically, this is required whenever in a mathematical proof finite multiset-ordering (or, multiset-extension for a well-founded relation) is used.
In the definition of `Inductive list_ext` one may replace an element by a list (traditionally a finite multiset) of smaller elements. The key contribution is the `Theorem wf_list_ext : well_founded ltA -> well_founded list_ext.` along required infrastructure.

File: theories/Wellfounded/List_Extension.v [hunk 1]
```diff
@@ -0,0 +1,128 @@
...
+
+Section WfList_Extension.
+
+  Variable A : Type.
+  Variable ltA : A -> A -> Prop.
+
+  (* List extension of the relation ltA *)
+  Inductive list_ext : list A -> list A -> Prop :=
+    | list_ext_intro a (bs : list A) l1 l2 :
+        Forall (fun b => ltA b a) bs -> list_ext (l1 ++ bs ++ l2) (l1 ++ a :: l2).
```
Comment (andres-erbsen) [inline theories/Wellfounded/List_Extension.v:15]: Please add motivating prose and/or an example that demonstrates the usefulness of having zero or multiple elements `bs` being added on the left while adding only one on the right. Or perhaps the relation is carefully constructed to satisfy some property? Or maybe a citation for resource that justifies this being an interesting relation.

File: theories/Wellfounded/List_Extension.v [hunk 2]
```diff
@@ -0,0 +1,128 @@
...
+  Proof.
+    intros [] *. rewrite <- !app_assoc. now constructor.
+  Qed.
+
+  Lemma list_ext_app_r l l1 l2 : list_ext l1 l2 -> list_ext (l ++ l1) (l ++ l2).
+  Proof.
+    intros [a bs l'1 l'2 H]. rewrite !(app_assoc l l'1). now constructor.
+  Qed.
+
+  Lemma clos_refl_trans_list_ext_app_l l1 l2 l : clos_refl_trans (list A) list_ext l1 l2 -> clos_refl_trans (list A) list_ext (l1 ++ l) (l2 ++ l).
```
Comment (andres-erbsen) [inline theories/Wellfounded/List_Extension.v:88]: Starting at this point the lemma statements get quite challenging to parse due to length. Wdyt of notations `R ^* x y` for `clos_refl_trans _ R x y`  and `R ^+ x y` for `clos_trans _ R x y`. I think it worked out pretty well [in frap](https://github.com/achlipala/frap/blob/55d128d9884acd0d1ecea0de342f7f9050215559/Relations.v#L127).

File: theories/Wellfounded/Lexicographic_Exponentiation.v [hunk 3]
```diff
@@ -216,83 +181,31 @@ Section Wf_Lexicographic_Exponentiation.
...
+          revert Hl1. apply Forall_impl.
+          intros. eapply clos_rt_t; [|apply t_step]; eassumption. }
+        rewrite <-(app_nil_r (a :: l1)).
+        apply (clos_trans_list_ext_app_l _ _ _ _ [b]); [assumption|].
+        destruct l2; [apply rt_refl|apply clos_t_clos_rt].
+        now apply clos_trans_list_ext_nil_l.
+      + apply (dist_Desc_concat [a]) in Hl1 as [_ ?].
+        apply (dist_Desc_concat [a]) in Hl2 as [_ ?].
+        apply (clos_trans_list_ext_app_r _ _ [a] _ [a]); auto using rt_refl.
+  Defined.
```
Comment (andres-erbsen) [inline theories/Wellfounded/Lexicographic_Exponentiation.v:209]: Have you actually exercised the computability of this definition in practice?

File: theories/Wellfounded/Transitive_Closure.v [hunk 4]
```diff
@@ -45,4 +45,21 @@ Section Wf_Transitive_Closure.
     unfold well_founded; auto with sets.
   Defined.
 
+  Lemma wf_clos_trans_inverse_rel (B : Type) (Q : relation B) (F : B -> A -> Prop) :
+    well_founded R ->
+    (forall b, exists a, F b a) ->
+    (forall b1 b2 a1, Q b2 b1 -> F b1 a1 -> exists a2, F b2 a2 /\ trans_clos a2 a1) ->
```
Comment (andres-erbsen) [inline theories/Wellfounded/Transitive_Closure.v:51]: The name of the lemma makes it sound like it's about inverse relations, but the statement seems to also involve connection between relations on different types. Please explain. Perhaps it's also possible to improve the low-level presentation (variable naming?) in the last hypothesis.

**Review by andres-erbsen — COMMENTED** [review]
Let's see whether I can grok it with some hints.

File: theories/Wellfounded/Lexicographic_Exponentiation.v (hunk 3 above)
Comment (mrhaandi) [reply theories/Wellfounded/Lexicographic_Exponentiation.v:209]: In my own development yes. However there more infrastructure is `Defined.`. For the standard library as it is, it does not make sense. I will revert it back to `Qed.`

File: theories/Wellfounded/Transitive_Closure.v (hunk 4 above)
Comment (mrhaandi) [reply theories/Wellfounded/Transitive_Closure.v]: I now removed `wf_clos_trans_inverse_rel` in favor of the more principled `wf_simulation` in `Inverse_Image.v`.
This is a standard lemma for simulations, see [nlab:simulation](https://ncatlab.org/nlab/show/well-founded+relation#simulations) of well-founded relations.
As a bonus, the proofs are simpler, and it generalizes the existing `Acc_inverse_rel` lemma (which now has a proof by instantiation + `auto`).

File: theories/Wellfounded/List_Extension.v (hunk 2 above)
Comment (mrhaandi) [reply theories/Wellfounded/List_Extension.v]: I added local notations for brevity:
```coq
  (* Transitive closure of list extension *)
  #[local] Notation "list_ext ^+" := (clos_trans (list A) list_ext).
  (* Reflexive transitive closure of list extension *)
  #[local] Notation "list_ext ^*" := (clos_refl_trans (list A) list_ext).
```

File: theories/Wellfounded/List_Extension.v (hunk 1 above)
Comment (mrhaandi) [reply theories/Wellfounded/List_Extension.v:22]: I added a reference to literature on the particular implementation.
To answer your question, in a multiset-ordering one may replace elements (cf. `a`) of a finite multiset by arbitrary many smaller elements (cf. `bs`). The resulting multiset is smaller wrt. multiset-ordering.
For example, this is a decreasing sequence of multisets wrt. the multiset extension of `lt` on `nat`:
`[2, 2] > [1, 1, 0, 2] > [1, 1, 0] > [1, 0] > [0, 0, 0] > [0, 0] > [0] > []`
For anyone who works with multiset ordering, the definition (which follows standard literature) should be clear.

File: theories/Wellfounded/List_Extension.v [hunk 5]
```diff
@@ -0,0 +1,134 @@
...
+  Variable A : Type.
+  Variable ltA : A -> A -> Prop.
+
+  (*
+    List extension of the relation ltA
+    see relation ">_red" [1] for which the transitive closure is the multiset ordering [1, Lemma 2]
+
+    [1] Solange Coupet-Grimal, William Delobel:
+        An effective proof of the well-foundedness of the multiset path ordering.
+        Applicable Algebra in Engineering, Communication and Computing 17(6): 453-469 (2006)
```
Comment (andres-erbsen) [inline theories/Wellfounded/List_Extension.v:18]:
```suggestion
        Applicable Algebra in Engineering, Communication and Computing 17(6): 453-469 (2006)
        
        "Intuition: to reduce a multiset, replace one element with zero or more smaller elements.
         For example, with Nat.lt, [2, 2] > [1, 1, 0, 2] > [1, 1, 0] > [1, 0] > [0, 0, 0] > [0, 0] > [0] > [].
```

File: theories/Wellfounded/List_Extension.v [hunk 6]
```diff
@@ -0,0 +1,134 @@
...
+    intros H. destruct H.
+    now repeat econstructor.
+  Qed.
+
+  Lemma list_ext_nil_r l : not (list_ext l []).
+  Proof.
+    now intros [? [? [[|??] [? [? [? ?]]]]]]%list_ext_inv.
+  Qed.
+
+  Lemma list_ext_Acc_app l1 l2 : Acc list_ext l1 -> Acc list_ext l2 -> Acc list_ext (l1 ++ l2).
```
Comment (andres-erbsen) [inline theories/Wellfounded/List_Extension.v:36]:
```suggestion
  Lemma Acc_list_ext_app l1 l2 : Acc list_ext l1 -> Acc list_ext l2 -> Acc list_ext (l1 ++ l2).
```

File: theories/Wellfounded/List_Extension.v [hunk 7]
```diff
@@ -0,0 +1,134 @@
...
+    induction l as [|a l IH]; [easy|].
+    intros _. destruct l as [|a' l].
+    - apply t_step. now apply (list_ext_intro a [] []).
+    - eapply t_trans.
+      + now apply IH.
+      + apply t_step.
+        now apply (list_ext_intro a [] [] (_ :: _)).
+  Qed.
+
+  Lemma list_ext_app_l l1 l2 l : list_ext l1 l2 -> list_ext (l1 ++ l) (l2 ++ l).
```
Comment (andres-erbsen) [inline theories/Wellfounded/List_Extension.v:90]: I am not sure whether this kind of lemmas should be named with `_l` or `_r` depending on shared variable or the different variable. However, we have `Nat.mul_le_mono_r: forall n m p : nat, (n <= m)%nat -> (n * p <= m * p)%nat` where the shared variable is on the right, so to be consistent with that we'd want the opposite of the convention proposed here. Is there some other reason to name these new lemmas as they are?

File: theories/Relations/Operators_Properties.v [hunk 8]
```diff
@@ -85,6 +85,14 @@ Section Properties.
       - constructor 2.
     Qed.
 
+    Lemma clos_t_clos_rt :
```
Comment (andres-erbsen) [inline theories/Relations/Operators_Properties.v:88]: I am used to putting the conclusion before the hypothesis in a lemma name, like `rt_t` . Is it the opposite way here just because the lemma is stated using `inclusion`, or for some other reason?

**Review by andres-erbsen — COMMENTED** [review]
Makes sense now; let's include this theory. Please take a look at the nits I left and kick off a full CI when you're with them.

File: theories/Relations/Operators_Properties.v (hunk 8 above)
Comment (mrhaandi) [reply theories/Relations/Operators_Properties.v:88]: This is done to stay consistent with the remainder of the file. Specifically, the existing lemma above `clos_r_clos_rt : inclusion (clos_refl R) (clos_refl_trans R).`
In the added lemma reflexive close (infix `_r_`) is replaced by transitive closure (infix `_t_`).

File: theories/Wellfounded/List_Extension.v (hunk 7 above)
Comment (mrhaandi) [reply theories/Wellfounded/List_Extension.v:90]: You are right, I will exchange `_l` and `_r` to stay consistent with `stdlib`.

File: theories/Wellfounded/List_Extension.v (hunk 6 above)
Comment (mrhaandi) [reply theories/Wellfounded/List_Extension.v:36]: Yes, I will change that.

File: theories/Wellfounded/List_Extension.v (hunk 5 above)
Comment (mrhaandi) [reply theories/Wellfounded/List_Extension.v:18]: Alright. Although I will replace "multiset" with "list", since the mechanization is about the list-version.

**Comment by mrhaandi** [comment]
@coqbot run full ci

**Comment by andres-erbsen** [comment]
@coqbot merge now

**Review by andres-erbsen — APPROVED** [review]
